### PR TITLE
feat: lexicographic ordering on `Nimber[X]`

### PR DESCRIPTION
**Pull request by vihdzp**
We add a linear order instance on `Nimber[X]`, defined as the lexicographic ordering. We prove some theorems about said ordering that will be useful when we prove part 4 of the simplest extension theorem.

### CODE REVIEW

File: CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean [hunk 1]
```diff
@@ -37,8 +42,27 @@ theorem natDegree_eq_zero_iff : p.natDegree = 0 ↔ p = 0 ∨ p.degree = 0 := by
...
 end Polynomial
 
+theorem WithBot.coe_add_one (n : ℕ) : WithBot.some (n + 1) = WithBot.some n + 1 :=
+  rfl
+
+@[simp]
+theorem WithBot.natCast_eq_coe (n : ℕ) : (n : WithBot ℕ) = WithBot.some n :=
+  rfl
+
+-- Generalize to a SuccAddOrder
```
Comment (tristan-f-r) [inline CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean]: (easier to search for)

```suggestion
-- TODO: Generalize to a SuccAddOrder
```

File: CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean [hunk 2]
```diff
@@ -130,4 +154,269 @@ theorem IsField.eval_embed {x : Nimber} (h : IsField x) (hx₁ : 1 < x) {p : Nim
...
+  exact (mul_leadingCoeff_inv_lt h₀ h₁).le
+
+instance : NoMaxOrder (Nimber[X]) where
+  exists_gt p := by
+    use X ^ (p.natDegree + 1)
+    simpa using degree_le_natDegree
+
+noncomputable instance : SuccOrder (Nimber.{u}[X]) := by
+  have (a b) (h : a < b) : b ≠ 0 := h.ne_bot -- Used by `aesop`
+  refine .ofCore (fun p ↦ .ofFinsupp (p.toFinsupp.update 0 (succ (p.coeff 0)))) ?_ (by simp)
```
Comment (tristan-f-r) [inline CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean]: Order swap

```suggestion
  refine .ofCore (fun p ↦ .ofFinsupp (p.toFinsupp.update 0 (succ (p.coeff 0)))) ?_ (by simp)
  have (a b) (h : a < b) : b ≠ 0 := h.ne_bot -- Used by `aesop`
```

File: CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean [hunk 3]
```diff
@@ -130,4 +154,269 @@ theorem IsField.eval_embed {x : Nimber} (h : IsField x) (hx₁ : 1 < x) {p : Nim
...
+      apply hd.trans_lt
+      rw [add_comm, ← CharTwo.sub_eq_add, self_sub_X_pow_of_monic hm, ← degree_eq_natDegree hp₀]
+      exact degree_eraseLead_lt hp₀
+    · rw [zero_add, hn k hk, coeff_add, coeff_X_pow, if_neg hk', zero_add]
+  · rwa [coeff_add, coeff_X_pow, if_neg hnp.ne, zero_add] at hn' ⊢
+
+theorem X_pow_add_le {p q : Nimber[X]} (hm : p.Monic) (h : q ≤ X ^ p.natDegree + p) :
+    X ^ p.natDegree + q ≤ p := by
+  obtain rfl | h := h.eq_or_lt
+  · rw [← add_assoc, CharTwo.add_self_eq_zero, zero_add] -- CharTwo.add_cancel_left
```
Comment (tristan-f-r) [inline CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean]:
```suggestion
  · rw [← add_assoc, CharTwo.add_self_eq_zero, zero_add] -- TODO: add CharTwo.add_cancel_left
```

Comment (tristan-f-r) [reply CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean]: Actually, why not just add the theorem to the file's mathlib section? I don't see that TODO getting done anytime reasonable otherwise.

```
theorem CharTwo.add_cancel_left {R : Type*} [Semiring R] [CharP R 2] (a b : R) :
    a + (a + b) = b := by
  rw [← add_assoc, CharTwo.add_self_eq_zero, zero_add]
```

File: CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean [hunk 4]
```diff
@@ -130,4 +154,269 @@ theorem IsField.eval_embed {x : Nimber} (h : IsField x) (hx₁ : 1 < x) {p : Nim
...
+  · exact (X_pow_add_lt hm h).le
+
+theorem mul_leadingCoeff_inv_lt {p : Nimber[X]} (h₀ : p ≠ 0) (h₁ : ¬p.Monic) :
+    p * C p.leadingCoeff⁻¹ < p := by
+  refine ⟨p.natDegree, fun k hk ↦ ?_, ?_⟩
+  · rw [coeff_eq_zero_of_natDegree_lt, coeff_eq_zero_of_natDegree_lt hk]
+    rwa [natDegree_mul_leadingCoeff_inv _ h₀]
+  · obtain hp₁ | hp₁ := le_or_gt p.leadingCoeff 1
+    · obtain _ | _ := le_one_iff.1 hp₁ <;> simp_all [Monic]
+    · aesop
```
Comment (tristan-f-r) [inline CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean]:
```suggestion
    · simp_all
```

File: CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean (hunk 3 above)
Comment (vihdzp) [reply CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean]: I actually have an open Mathlib PR adding this: https://github.com/leanprover-community/mathlib4/pull/28589

I'll add the theorem and add a link to the PR.
